US04072688
Preparation of 2-m-chlorophenyl-3-dichloroacetyl thiazolidine.
Five grams of 2-m-chlorophenyl thiazolidine was dissolved in 50 ml. of benzene and 2.6 g. of triethylamine and the mixture was stirred in a room temperature water bath, while 3.7 g. of dichloroacetyl chloride was added dropwise. After standing for about 30 minutes, the mixture was washed with water, separated and dried over magnesium sulfate and the benzene stripped under vacuum. There was obtained a yield of 7.2 g. of an oil, the title compound, ND30 = 1.5805.

reactant | 2-m-chlorophenyl thiazolidine | Five grams | ClC=1C=C(C=CC1)C1SCCN1 | C9H10ClNS
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-m-chlorophenyl-3-dichloroacetyl thiazolidine | ClC=1C=C(C=CC1)C1SCCN1C(C(Cl)Cl)=O | C11H10Cl3NOS
